US05919782
(S)-2-Hydroxymethyl-1-(quinolin-2-yl)pyrrolidine:
The title compound (6 g, 100%) was prepared as a syrupy liquid from 2-chloroquinoline (4 g) and L-prolinol (14.8 g) by an analogous procedure to that described in preparation 1.

reactant | 2-chloroquinoline | 4 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | L-prolinol | 14.8 g | N1[C@H](CO)CCC1 | C5H11NO
product | (S)-2-Hydroxymethyl-1-(quinolin-2-yl)pyrrolidine | 6 g, 100% | OC[C@H]1N(CCC1)C1=NC2=CC=CC=C2C=C1 | C14H16N2O
